US05776951
(a) 3-(4-Benzyloxyphenyl) glutaric acid
4-Benzyloxybenzaldehyde (50.0 g, Aldrich), ethyl acetoacetate (61.31 g, Aldrich), and piperidine (4.01 lg) were reacted together overnight. The resulting mixture was refluxed for 3-4 hours with ethanol (400 ml) and sodium methoxide (63.63 g).

reactant | 4-Benzyloxybenzaldehyde | 50.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | ethyl acetoacetate | 61.31 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | sodium methoxide | 63.63 g | C[O-].[Na+]
reactant | ethanol | 400 ml | C(C)O | C2H6O
product | 3-(4-Benzyloxyphenyl) glutaric acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC(=O)O)CC(=O)O | C18H18O5
